US08217043B2
a) 1-Amino-1H-indole-2-carboxylic acid ethyl ester
To a mixture of 1H-indole-2-carboxylic acid ethyl ester (2.07 g, Sigma-Aldridch) in MTBE (25 mL) was added in the order of: ammonium chloride (2.96 g), ALIQUAT 336 (124 mg; Cognis Corp., Monheim, Germany), sodium hydroxide (7.44 g), concentrated ammonium hydroxide solution (4.06 mL); the resulting mixture was rigorously stirred at rt, then a 10% solution of NaOCl (67 mL) was added dropwise over a period of 30 min. The reaction was stirred for 3 h after addition of NaOCl, then diluted with EtOAc, washed with water and sat. NaCl solution respectively, dried over sodium sulfate, filtered, concentrated, then the residue was column-purified to give product (1.48 g) as slightly yellow oil. 1H NMR (CDCl3, δ in ppm): 7.65-7.58 (m, 2H), 7.35 (t, 1H, J=7.0 Hz), 7.18-7.11 (m, 2H), 6-4.5 (very broad, 2H), 4.38 (q, 2H, J=7.0 Hz), 1.42 (t, 3H, J=7.0 Hz).

reactant | 1H-indole-2-carboxylic acid ethyl ester | 2.07 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | ammonium chloride | 2.96 g | [Cl-].[NH4+]
reactant | sodium hydroxide | 7.44 g | [OH-].[Na+]
reactant | ammonium hydroxide | 4.06 mL | [OH-].[NH4+]
reactant | NaOCl | 67 mL | [O-]Cl.[Na+]
solvent | MTBE | 25 mL | CC(C)(C)OC | C5H12O
catalyst | ALIQUAT 336 | 124 mg | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Amino-1H-indole-2-carboxylic acid ethyl ester | 1.48 g | C(C)OC(=O)C=1N(C2=CC=CC=C2C1)N | C11H12N2O2
